US04419352
(a) 6-Acetyl-7-hydroxy-4-dimethylamino-8-propyl-quinoline-2-carboxylic acid
Methyl 6-acetyl-4-chloro-7-hydroxy-8-propyl-quinoline-2-carboxylate (6 g; 18.6474 mmole) in 33% w/w dimethylamine in methanol (50 ml) was heated at 100° C. under pressure (autoclaved) for 24 hours. The mixture was cooled, and treated with water, concentrated, and extracted with chloroform. The extract was washed with water, dried and evaporated to give a brown solid. The solid was heated in 70% sulphuric acid (150 ml) on a steambath for 6 hours. The mixture was cooled and the pH adjusted to about 7 before extraction into chloroform. The extract was dried and evaporated to give a yellow solid (1.25 g). NMR and mass spectra were consistent with the required structure.

reactant | Methyl 6-acetyl-4-chloro-7-hydroxy-8-propyl-quinoline-2-carboxylate | 18.6474 mmole, 6 g | C(C)(=O)C=1C=C2C(=CC(=NC2=C(C1O)CCC)C(=O)OC)Cl | C16H16ClNO4
reactant | dimethylamine | CNC | C2H7N
reactant | water | O | H2O
solvent | methanol | 50 ml | CO | CH4O
solvent | sulphuric acid | 150 ml | S(O)(O)(=O)=O | H2O4S
product | 6-Acetyl-7-hydroxy-4-dimethylamino-8-propyl-quinoline-2-carboxylic acid | 1.25 g | C(C)(=O)C=1C=C2C(=CC(=NC2=C(C1O)CCC)C(=O)O)N(C)C | C17H20N2O4
